US07220744B2
b) 4-(5-Trifluoromethyl-thiazol-2-yl)-piperazine-1-carboxylic acid tert-butyl ester
To a solution of 17.5 mmol 2-benzenesulfonyl-3-trifluoromethyl-oxirane in 20 ml N,N-dimethylformamide was added 15.9 mmol 4-thiocarbamoyl-piperazine-1-carboxylic acid tert-butyl ester (prepared from tert-butyl 1-piperazinecarboxylate, 1,1′-thiocarbonyldiimidazole and ammonia according to the procedure of J. Med. Chem. 1998, 41, 5037–5054). The mixture was heated at 90° C. for 10 h. The reaction mixture was then concentrated in vacuo and the residue purified by chromatography (SiO2, ethyl acetate/heptane) to afford the title compound as an orange crystalline solid (yield 26%). MS (m/e): 338.1 (M+H+, 100%).

reactant | 2-benzenesulfonyl-3-trifluoromethyl-oxirane | 17.5 mmol | C1(=CC=CC=C1)S(=O)(=O)C1OC1C(F)(F)F | C9H7F3O3S
reactant | 4-thiocarbamoyl-piperazine-1-carboxylic acid tert-butyl ester | 15.9 mmol | C(C)(C)(C)OC(=O)N1CCN(CC1)C(N)=S | C10H19N3O2S
reactant | tert-butyl 1-piperazinecarboxylate | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 1,1′-thiocarbonyldiimidazole | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | ammonia | N | H3N
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4-(5-Trifluoromethyl-thiazol-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | yield 26% | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1SC(=CN1)C(F)(F)F | C13H18F3N3O2S
